US07601850B2
D. 1-{4-[1-Ethyl-1-(4-methyl-thiopben-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-one
To a 0° C. solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanol (6 g,) in THF (50 ml) is treated with PBr3 (2.2 ml, 23.3 mmol) and warmed to RT. After stirring for 2 h, the mixture is partitioned between EtOAc and brine. The organic layer is MgSO4 dried, concentrated, and dissolved in anhydrous THF (30 ml) to give a solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methane bromide. Separately, a solution of 3,3-dimethyl-butan-2-one (5.3 ml, 42.4 mmol) in THF (15 ml) is treated with LiHMDS (42.4 ml, 42.4 mmol, 1M in THF) at −70° C. for 1 h. This solution is transferred (via cannula) into a −70° C. solution of {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanebromide/THF. The mixture is warmed to RT and stirred for 1 h. The reaction is diluted with EtOAc and washed with 0.2 N HCl until the aq layer is pH 2. The organic layer is concentrated to give the title compound (6.2 g, 79%).

reactant | 3,3-dimethyl-butan-2-one | 42.4 mmol, 5.3 ml | CC(C(C)=O)(C)C | C6H12O
reactant | LiHMDS | 42.4 mmol, 1M, 42.4 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | {4-[1-ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenyl}-methanebromide THF | [Br-].C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)C)C.C1CCOC1
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{4-[1-Ethyl-1-(4-methyl-thiopben-2-yl)-propyl]-2-methyl-phenyl}-4,4-dimethyl-pentan-3-one | 6.2 g, 79% | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)CCC(C(C)(C)C)=O)C | C24H34OS
